US07018454B2
2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole;
2-(2-hydroxy-3-tert-butyl-5-methylphenyl)-2H-benzotriazole-5-sulfonic acid, sodium salt;

reactant | 2-(2-hydroxy-3-tert-butyl-5-methylphenyl)-2H-benzotriazole-5-sulfonic acid | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=N1)C=CC(=C2)S(=O)(=O)O | C17H19N3O4S
reactant | sodium | [Na] | Na
product | 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
